US06083961
To a solution of 4-[3-[N-[(E)-3-(6-aminopyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methoxy-1-methyl-1H-benzimidazole (100 mg) and triethylamine (53.3 mg) in dichloromethane (2 ml) was added 2-methyl-3-pyridinecarbonyl chloride hydrochloride (74.2 mg) under ice-cooling, and the mixture was stirred for 15 minutes at the same temperature and then for 3 hours at ambient temperature. The reaction mixture was concentrated, and the residue was dissolved in methanol (3 ml). To the solution was added 1N sodium hydroxide solution (0.5 ml), and the mixture was stirred for 1 hour. Chloroform was added to the reaction mixture, and the solution was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol, 10:1, v/v) to give 4-[2,6-dichloro-3-[N-methyl-N-[(E)-3-[6-(2-methylpyridin-3-carboxamido)pyridin-3-yl]acryloylglycyl]amino]benzyloxy]-2-methoxy-1-methyl-1H-benzimidazole (99 mg).

reactant | 4-[3-[N-[(E)-3-(6-aminopyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methoxy-1-methyl-1H-benzimidazole | 100 mg | NC1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(COC2=CC=CC=3N(C(=NC32)OC)C)C(=CC1)Cl)Cl | C27H26Cl2N6O4
reactant | triethylamine | 53.3 mg | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-3-pyridinecarbonyl chloride hydrochloride | 74.2 mg | Cl.CC1=NC=CC=C1C(=O)Cl
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-[2,6-dichloro-3-[N-methyl-N-[(E)-3-[6-(2-methylpyridin-3-carboxamido)pyridin-3-yl]acryloylglycyl]amino]benzyloxy]-2-methoxy-1-methyl-1H-benzimidazole | 99 mg | ClC1=C(COC2=CC=CC=3N(C(=NC32)OC)C)C(=CC=C1N(C(CNC(\C=C\C=1C=NC(=CC1)NC(=O)C=1C(=NC=CC1)C)=O)=O)C)Cl | C34H31Cl2N7O5
